US07223757B2
(±)-4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(6-hydroxymethyl-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one:
To a solution of (±)-2-{4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}- -3H-benzimidazole-5-carboxylic acid ethyl ester (25 mg, 0,054 mmol) in methanol (2 mL) and acetic acid (1 mL) was added NaBH4 (10 mg, 0.27 mmol) at −20° C. The reaction mixture was stirred at −20° C. for 30 min. and quenched with isopropanol (5 drops). After removal of most solvent, the residue was extracted with EtOAc, washed with water and brine, dried over Na2SO4. After concentration, the crude product was purified by prep. HPLC to yield the title compound (18 mg, 62%). 1H NMR (300 MHz, CD3OD) δ 7.50 (1H, s), 7.48 (1H, s), 7.25–7.38 (4H, m), 7.22 (1H, s), 6.25 (1H, d, J=7.6 Hz), 4.89–4.94 (1H, m), 4.76 (2H, s), 3.51–3.62 (2H, m), 2.62 (3H, s). LCMS (M+H)+ m/z 425 (t=1.64 min.).

reactant | (±)-2-{4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}- -3H-benzimidazole-5-carboxylic acid ethyl ester | 0,054 mmol, 25 mg | C(C)OC(=O)C1=CC2=C(N=C(N2)C=2C(NC=CC2NCC(O)C2=CC(=CC=C2)Cl)=O)C=C1 | C23H21ClN4O4
reactant | NaBH4 | 0.27 mmol, 10 mg | [BH4-].[Na+]
reactant | methanol | 2 mL | CO | CH4O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | (±)-4-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-3-(6-hydroxymethyl-4-methyl-1H-benzimidazol-2-yl)-1H-pyridin-2-one | 18 mg, 62% | ClC=1C=C(C=CC1)C(CNC1=C(C(NC=C1)=O)C1=NC2=C(N1)C=C(C=C2C)CO)O | C22H21ClN4O3
